US07858653B2
To a stirred suspension of 2-[2-(3-chloro-phenyl)-2-methoxy-ethyl]-1-trityl-1H-imidazole (0.24 g) at room temperature in ethanol (2 ml) under an argon atmosphere was added 2 N HCl (3 ml). The mixture was heated to reflux. Stirring was continued for 3 hours. The mixture was cooled to room temperature and concentrated to leave a light yellow solid. This was taken up in H2O and brought to pH=12 by the addition of 4 N NaOH. The product was extracted with CH2Cl2/methanol 4:1. The combined organics were dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient:CH2Cl2→CH2Cl2/methanol 9:1) to give 2-[2-(3-chloro-phenyl)-2-methoxy-ethyl]-1H-imidazole (0.11 mg) as light yellow gum. MS 237.1 ([M+H]+)

reactant | 2-[2-(3-chloro-phenyl)-2-methoxy-ethyl]-1-trityl-1H-imidazole | 0.24 g | ClC=1C=C(C=CC1)C(CC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC | C31H27ClN2O
reactant | HCl | 2 N, 3 ml | Cl | ClH
reactant | NaOH | 4 N | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | H2O | O | H2O
product | 2-[2-(3-chloro-phenyl)-2-methoxy-ethyl]-1H-imidazole | 0.11 mg | ClC=1C=C(C=CC1)C(CC=1NC=CN1)OC | C12H13ClN2O
